### PR TITLE
feat: linear order is isomorphic to lexicographic sum of two intervals

### PR DESCRIPTION
**Pull request by vihdzp**
---

The material in this PR was previously in #18893.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/RelIso/Set.lean [hunk 1]
```diff
@@ -132,3 +132,83 @@ theorem wellFounded_iff_wellFounded_subrel {r : α → α → Prop} [IsTrans α
...
+
+namespace Equiv
+
+variable {r : α → α → Prop} {x : α} [IsTrans α r] [IsTrichotomous α r] [DecidableRel r]
+
+variable (r x) in
+/-- A relation is isomorphic to the lexicographic sum of elements less than `x` and elements not
+less than `x`. -/
+def sumLexComplLeft : Sum.Lex (Subrel r {y | r y x}) (Subrel r {y | ¬ r y x}) ≃r r := by
+  refine ⟨Equiv.sumCompl _, ?_⟩
```
Comment (eric-wieser) [inline Mathlib/Order/RelIso/Set.lean:144]: Since this is data, can you use `where` notation to build this instead of `by`?

Comment (vihdzp) [reply Mathlib/Order/RelIso/Set.lean:144]: That would require me to specify five fields, whereas by using constructor notation directly I can immediately take care of four of them. The last field, `map_rel_iff'`, is just the remainder of the proof.

Comment (vihdzp) [reply Mathlib/Order/RelIso/Set.lean:144]: Isn't `refine` generally fine to use with data? I think what I'm writing should be equivalent to
```lean 4
⟨Equiv.sumCompl _, by
  long_proof
⟩
```

File: Mathlib/Order/RelIso/Set.lean [hunk 2]
```diff
@@ -132,3 +132,87 @@ theorem wellFounded_iff_wellFounded_subrel {r : α → α → Prop} [IsTrans α
...
+greater than `x`. -/
+-- The explicit type signature stops `simp` from complaining.
+def sumLexComplRight :
+    @Sum.Lex {y // ¬ r x y} {y // r x y} (Subrel r {y | ¬ r x y}) (Subrel r {y | r x y}) ≃r r := by
+  refine ⟨(Equiv.sumComm _ _).trans <| Equiv.sumCompl (r x ·), ?_⟩
+  rintro (⟨a, ha⟩ | ⟨a, ha⟩) (⟨b, hb⟩ | ⟨b, hb⟩)
+  · simp
+  · simpa using trans_trichotomous_left ha hb
+  · simpa using fun h ↦ hb <| trans ha h
+  · simp
```
Comment (YaelDillies) [inline Mathlib/Order/RelIso/Set.lean:190]:
```suggestion
    @Sum.Lex {y // ¬ r x y} {y // r x y} (Subrel r {y | ¬ r x y}) (Subrel r {y | r x y}) ≃r r where
  toEquiv := (Equiv.sumComm _ _).trans <| Equiv.sumCompl (r x ·), ?_⟩
  map_rel_iff' := by
    rintro (⟨a, ha⟩ | ⟨a, ha⟩) (⟨b, hb⟩ | ⟨b, hb⟩)
    · simp
    · simpa using trans_trichotomous_left ha hb
    · simpa using fun h ↦ hb <| trans ha h
    · simp
```
is what Eric meant. Same elsewhere

**Review by YaelDillies — COMMENTED** [review]
Can we have the specialisation to preorders?

File: Mathlib/Order/RelIso/Set.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Order/RelIso/Set.lean]: > That would require me to specify five fields,

This is not true, as Yael remarks below

> Isn't `refine` generally fine to use with data?

In practice yes; stylistically, no - your "equivalent to" version is preferred (and Yael's version even more so)

**Comment by vihdzp** [comment]
> Can we have the specialisation to preorders?

This adds a bunch of imports and makes the PR twice as big. But I think they're an useful addition, so I've done a few changes to accomodate it: mainly, I've moved all of this to its own file.

File: Mathlib/Data/Sum/Order.lean [hunk 3]
```diff
@@ -483,6 +483,18 @@ namespace OrderIso
 
 variable [LE α] [LE β] [LE γ] (a : α) (b : β) (c : γ)
 
+/-- `Equiv.sumCongr` promoted to an order isomorphism. -/
+@[simps! apply]
+def sumCongr {α₁ α₂ β₁ β₂ : Type*} [LE α₁] [LE α₂] [LE β₁] [LE β₂]
+    (ea : α₁ ≃o α₂) (eb : β₁ ≃o β₂) : α₁ ⊕ β₁ ≃o α₂ ⊕ β₂ where
+  toEquiv := Equiv.sumCongr ea eb
```
Comment (YaelDillies) [inline Mathlib/Data/Sum/Order.lean:490]:
```suggestion
  toEquiv := .sumCongr ea eb
```

File: Mathlib/Data/Sum/Order.lean [hunk 4]
```diff
@@ -552,7 +564,19 @@ theorem sumDualDistrib_symm_inl : (sumDualDistrib α β).symm (inl (toDual a)) =
...
-/-- `Equiv.SumAssoc` promoted to an order isomorphism. -/
+/-- `Equiv.sumCongr` promoted to an order isomorphism. -/
+@[simps! apply]
+def sumLexCongr {α₁ α₂ β₁ β₂ : Type*} [LE α₁] [LE α₂] [LE β₁] [LE β₂]
+    (ea : α₁ ≃o α₂) (eb : β₁ ≃o β₂) : α₁ ⊕ₗ β₁ ≃o α₂ ⊕ₗ β₂ where
+  toEquiv := ofLex.trans ((Equiv.sumCongr ea eb).trans toLex)
+  map_rel_iff' := by simp_rw [Lex.forall]; rintro (a | a) (b | b) <;> simp
+
+@[simp]
+theorem sumLexCongr_symm {α₁ α₂ β₁ β₂ : Type*} [LE α₁] [LE α₂] [LE β₁] [LE β₂]
```
Comment (eric-wieser) [inline Mathlib/Data/Sum/Order.lean:575]: It would be nice to have the `trans` and `refl` versions of this too.

File: Mathlib/Order/Hom/Lex.lean [hunk 5]
```diff
@@ -0,0 +1,177 @@
...
+/-! ### Relation isomorphism -/
+
+namespace RelIso
+
+variable {r : α → α → Prop} {x y : α} [IsTrans α r] [IsTrichotomous α r] [DecidableRel r]
+
+variable (r x) in
+/-- A relation is isomorphic to the lexicographic sum of elements less than `x` and elements not
+less than `x`. -/
+-- The explicit type signature stops `simp` from complaining.
```
Comment (eric-wieser) [inline Mathlib/Order/Hom/Lex.lean:30]: Where does this complaining happen? If you're able to make a mwe, can you file an issue with it?

File: Mathlib/Order/Hom/Lex.lean [hunk 6]
```diff
@@ -0,0 +1,177 @@
...
+
+@[simp]
+theorem sumLexComplLeft_symm_apply (a : {y // r y x}) :
+    (sumLexComplLeft r x).symm a = Sum.inl a :=
+  sumLexComplLeft_symm_apply_of_mem a.2
+
+@[simp]
+theorem sumLexComplLeft_symm_apply_neg (a : {y // ¬ r y x}) :
+    (sumLexComplLeft r x).symm a = Sum.inr a :=
+  sumLexComplLeft_symm_apply_of_not_mem a.2
```
Comment (eric-wieser) [inline Mathlib/Order/Hom/Lex.lean:65]: I would suggest dropping all of these and just having the lemmas
* `sumLexComplLeft r x y = Equiv.sumCompl (r · x) y`
* `(sumLexComplLeft r x).symm y = (Equiv.sumCompl (r · x)).symm y`

and letting the API around `sumCompl` handle it.

File: Mathlib/Order/Hom/Lex.lean (hunk 5 above)
Comment (vihdzp) [reply Mathlib/Order/Hom/Lex.lean:30]: This complaining is addressed in #20479, I can make this a dependent PR so that this doesn't come up

Comment (eric-wieser) [reply Mathlib/Order/Hom/Lex.lean:30]: Do you mean #20475?

File: Mathlib/Order/Hom/Lex.lean [hunk 7]
```diff
@@ -0,0 +1,141 @@
...
+namespace OrderIso
+
+variable [LinearOrder α] {x y : α}
+
+variable (x) in
+/-- A linear order is isomorphic to the lexicographic sum of elements less than `x` and elements
+greater or equal to `x`. -/
+def sumLexIioIci : Iio x ⊕ₗ Ici x ≃o α :=
+  (sumLexCongr (refl _) (setCongr (Ici x) {y | ¬ y < x} (by ext; simp))).trans <|
+    ofRelIsoLT (RelIso.sumLexComplLeft (· < ·) x)
```
Comment (eric-wieser) [inline Mathlib/Order/Hom/Lex.lean:84]: I think you should be composing with `ofLex` here somehow. Do we have `ofLex` as a `RelIso` for `Sum`?

File: Mathlib/Order/Hom/Lex.lean [hunk 8]
```diff
@@ -0,0 +1,141 @@
...
+
+@[simp]
+theorem sumLexIioIci_apply_inl (a : Iio x) : sumLexIioIci x (Sum.inl a) = a :=
+  rfl
+
+@[simp]
+theorem sumLexIioIci_apply_inr (a : Ici x) : sumLexIioIci x (Sum.inr a) = a :=
+  rfl
```
Comment (eric-wieser) [inline Mathlib/Order/Hom/Lex.lean:92]:
```suggestion
theorem sumLexIioIci_apply_inl (a : Iio x) : sumLexIioIci x (ofLex <| Sum.inl a) = a :=
  rfl

@[simp]
theorem sumLexIioIci_apply_inr (a : Ici x) : sumLexIioIci x (ofLex <| Sum.inr a) = a :=
  rfl
```

File: Mathlib/Order/Hom/Lex.lean (hunk 7 above)
Comment (vihdzp) [reply Mathlib/Order/Hom/Lex.lean:84]: There's some pretty subtle def-eq finagling going on here: the reason `ofRelIsoLT` works is because `Sum.Lex (. < .) (. < .) (Iio x) (Ici x)` is def-eq to the `<` relation on `Lex (Iio x + Ici x)`. I'm not sure this can be made less abusive by just inserting `ofLex`.

In any case things should probably be fine as long as we keep the actual API free of def-eq abuse.

File: Mathlib/Order/Hom/Lex.lean (hunk 8 above)
Comment (eric-wieser) [reply Mathlib/Order/Hom/Lex.lean:92]: That suggestion doesn't make any sense to me, the type of this bundled map is  `Lex (Sum (Iio x) (Ici x)) ≃o α`, so when applying the map to a `Sum` you have to call `toLex` first.

(I realize I made a type above too...)

File: Mathlib/Order/Hom/Lex.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/Order/Hom/Lex.lean:84]: I think we should introduce a `Sum.toLexRelIso : Sum.Lex (. < .) (. < .) ≃o (fun a b : Lex (Sum _ _) => a < b)` or whatever the true version is, with `simp` lemmas reducing to `toLex`, and cast through that here

File: Mathlib/Order/Hom/Lex.lean (hunk 8 above)
Comment (vihdzp) [reply Mathlib/Order/Hom/Lex.lean:92]: Oh nevermind, I see why what I was saying is nonsense.

**Comment by vihdzp** [comment]
Moved to #26613.
